US07157487B2
To methyl 4-(1-(5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenylacetyl)-4,4-difluoro-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylate (620 mg, 0.53 mmol) were added THF (4.5 ml) and 0.25N NaOH (4.5 ml). The resulting mixture was stirred at room temperature for 14 hours. The reaction mixture was distilled under reduced pressure to remove the solvent. The residue was acidified with 1N HCl, followed by extraction with chloroform-methanol (5:1, v/v). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. By chromatography using a silica gel thin-layer plate (Whatman TLC), two diastereomers were separated from the residue, whereby from chloroform-methanol (40:1, v/v×3) eluate fractions, trans-4-(1-(5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenylacetyl)-4,4-difluoro-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylic acid (53 mg, 16%) was obtained as a white solid.

reactant | methyl 4-(1-(5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenylacetyl)-4,4-difluoro-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylate | 0.53 mmol, 620 mg | ClC=1C(=CC(=C(C1)CC(=O)N1[C@@H](CC(C1)(F)F)COC1CCC(CC1)C(=O)OC)F)NC(=O)C1=CN(C2=CC=CC=C12)C | C31H33ClF3N3O5
reactant | NaOH | 0.25N, 4.5 ml | [OH-].[Na+]
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
product | trans-4-(1-(5-chloro-2-fluoro-4-(1-methyl-3-indolylcarbonylamino)phenylacetyl)-4,4-difluoro-(2S)-pyrrolidinylmethoxy)cyclohexanecarboxylic acid | 53 mg, 16% | ClC=1C(=CC(=C(C1)CC(=O)N1[C@@H](CC(C1)(F)F)CO[C@@H]1CC[C@H](CC1)C(=O)O)F)NC(=O)C1=CN(C2=CC=CC=C12)C | C30H31ClF3N3O5
